US09226501B2
Preparation of (E)-2-Bromo-N-(2-methyl-1-(neopentylamino)-1-oxopropan-2-yl)-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)benzamide
(E)-2-(2-Bromo-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)benzamido)-2-methylpropanoic acid: A 25 mL round bottomed flask equipped with a magnetic stir bar and reflux condenser was charged with (E)-2-bromo-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)benzoic acid (400 mg, 0.82 mmol) and 1,2-dichloroethane (DCE) (5 mL). Thionyl chloride (0.12 mL, 1.64 mmol) was added neat in one portion and the resulting reaction mixture was heated at reflux for 2 h. After which time, reaction mixture was allowed to cool and concentrated to give the crude acid chloride which was used without further purification. To a solution containing NaHCO3 (68.8 mg, 0.82 mmol), 2-amino-2-methylpropanoic acid (84 mg, 0.82 mmol) and dodecyltrimethylammonium bromide (2.52 mg, 8.19 μmol) in 10 mL of THF was added to the acid chloride in THF (1 mL). The resulting mixture was heated at reflux for 18 h. Reaction mixture was allowed to cool and added to water, made acidic with 0.1N HCl, extracted (3×) with Et2O, washed (1×) with brine, dried over MgSO4, filtered and evaporated to afford the title compound as a light brown foam (400 mg, 85%): 1H NMR (400 MHz, CDCl3) δ 7.60 (d, J=1.6 Hz, 1H), 7.59 (d, J=8.0 Hz, 1H), 7.40 (s, 2H), 7.37 (dd, J=8.1, 1.6 Hz, 1H), 6.63 (s, 1H), 6.53 (d, J=15.9 Hz, 1H), 6.38 (dd, J=15.9, 7.9 Hz, 1H), 4.10 (p, J=8.3 Hz, 1H), 1.73 (s, 6H). This material is used without further purification.

reactant | (E)-2-(2-Bromo-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)benzamido)-2-methylpropanoic acid | BrC1=C(C(=O)NC(C(=O)O)(C)C)C=CC(=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C21H16BrCl3F3NO3
reactant | (E)-2-bromo-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)benzoic acid | 0.82 mmol, 400 mg | BrC1=C(C(=O)O)C=CC(=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C17H9BrCl3F3O2
reactant | Thionyl chloride | 1.64 mmol, 0.12 mL | S(=O)(Cl)Cl | Cl2OS
reactant | NaHCO3 | 0.82 mmol, 68.8 mg | C(=O)(O)[O-].[Na+]
reactant | 2-amino-2-methylpropanoic acid | 0.82 mmol, 84 mg | NC(C(=O)O)(C)C | C4H9NO2
reactant | HCl | 0.1N | Cl | ClH
catalyst | dodecyltrimethylammonium bromide | 8.19 μmol, 2.52 mg | [Br-].C(CCCCCCCCCCC)[N+](C)(C)C
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
product | (E)-2-Bromo-N-(2-methyl-1-(neopentylamino)-1-oxopropan-2-yl)-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)benzamide | 400 mg, 85% | BrC1=C(C(=O)NC(C(=O)NCC(C)(C)C)(C)C)C=CC(=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C26H27BrCl3F3N2O2
